US06117888
Step A: 1-Ethyloxycarbonylmethyl-4-(2-hydroxyethylthio)-6-methyl-3-nitro-2-pyridinone
2-Mercaptoethanol (0.168 mL, 2.4 mmol) was added to a stirred mixture of 4-chloro-1-ethyloxycarbonylmethyl-6-methyl-3-nitro-2-pyridinone (the product of Example 3, Step B, 549 mg, 2.0 mmol) and triethylamine (0.613 mL, 4.4 mmol) in ethanol (4 mL) and the mixture was heated to reflux for 15 min. The reaction was cooled and evaporated to a solid which was purified by flash column chromatography on silica gel (eluting with ethyl acetate), to give the title compound as a pale yellow crystalline solid:

reactant | 2-Mercaptoethanol | 2.4 mmol, 0.168 mL | SCCO | C2H6OS
reactant | 4-chloro-1-ethyloxycarbonylmethyl-6-methyl-3-nitro-2-pyridinone | ClC1=C(C(N(C(=C1)C)CC(=O)OCC)=O)[N+](=O)[O-] | C10H11ClN2O5
reactant | triethylamine | 4.4 mmol, 0.613 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 1-Ethyloxycarbonylmethyl-4-(2-hydroxyethylthio)-6-methyl-3-nitro-2-pyridinone | C(C)OC(=O)CN1C(C(=C(C=C1C)SCCO)[N+](=O)[O-])=O | C12H16N2O6S
